US07541374B2
1.04 g of 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole-5-amine was dissolved to 20 ml of tetrahydrofuran. 1.55 g of t-butyl nitrite was added to the solution, followed by refluxed for 3 hours. After the reaction mixture was cooled to room temperature, water was added to the reaction mixture, and extracted with diethyl ether. The organic layer was washed with water, dried over sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.94 g of 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole.

reactant | 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole-5-amine | 1.04 g | ClC(SC=1C=NN(C1N)CC1=CC=C(C=C1)OC)(F)Cl | C12H12Cl2FN3OS
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | t-butyl nitrite | 1.55 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | water | O | H2O
product | 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole | 0.94 g | ClC(SC=1C=NN(C1)CC1=CC=C(C=C1)OC)(F)Cl | C12H11Cl2FN2OS
